US07741341B2
515.0 mg (2.16 mmol) (3-Fluoro-4-nitro-phenyl)-pyrrolidin-1-yl-methanone were dissolved in 20 mL MeOH. The solution was evacuated and rinsed with argon several times. 150 mg palladium on charcoal (10%) were added and again the mixture was evacuated and rinsed with argon several times. Finally argon was exchanged by hydrogen (balloon filled with hydrogen) and the mixture was stirred for 2 h at room temperature. The reaction mixture was filtered over “Celite” and the filter residue was washed with 30 mL MeOH. The filtrate was concentrated under vacuo to give pure (4-Amino-3-fluoro-phenyl)-pyrrolidin-1-yl-methanone as a colorless oil.

reactant | (3-Fluoro-4-nitro-phenyl)-pyrrolidin-1-yl-methanone | 2.16 mmol, 515.0 mg | FC=1C=C(C=CC1[N+](=O)[O-])C(=O)N1CCCC1 | C11H11FN2O3
solvent | MeOH | 20 mL | CO | CH4O
product | (4-Amino-3-fluoro-phenyl)-pyrrolidin-1-yl-methanone | NC1=C(C=C(C=C1)C(=O)N1CCCC1)F | C11H13FN2O
